US04173705
2-Cyano-4-methylpyridine is reacted in an inert atmosphere with an ethereal solution of freshly prepared 2-furoyl-lithium followed by acid hydrolysis to form 2-(2-furoyl)-4-methylpyridine which is then reacted with methyl iodide to form 2-(2-furoyl)-1,4-dimethylpyridinium iodide. Both furoyl compounds exhibit thermal and chemical analgesic properties.

reactant | 2-Cyano-4-methylpyridine | C(#N)C1=NC=CC(=C1)C | C7H6N2
reactant | 2-furoyl-lithium | O1C(=CC=C1)C(=O)[Li]
product | 2-(2-furoyl)-4-methylpyridine | O1C(=CC=C1)C(=O)C1=NC=CC(=C1)C | C11H9NO2
